US07067510B2
Add DIBAL solution (5 mL, 1M/THF) dropwise to [6-hydroxy-2-(2-hydroxy-benzyl)-benzo[b]thiophen-3-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (300 mg, 0.6 mmol) in THF (5 mL) at −78° C. Stir for 30 min and quench with water, followed by TFA (5 mL). Stir the mixture for 3 h while warming to r.t. Remove the solvent in vacuo and dissolve the residue in i-PrOH/CH2Cl2 (1:3). Wash the organic phase with water and brine, dry over MgSO4, filter and concentrate. Purify by flash chromatography (0–5% (2M NH3 in MeOH)/CH2Cl2) to afford 5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-6-oxa-12-thia-dibenzo[a,f]azulen-2-ol (180 mg, 62%).

reactant | DIBAL | 1M, 5 mL | CC(C)C[AlH]CC(C)C
reactant | [6-hydroxy-2-(2-hydroxy-benzyl)-benzo[b]thiophen-3-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 0.6 mmol, 300 mg | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)CC2=C(C=CC=C2)O)C1 | C29H29NO4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-6-oxa-12-thia-dibenzo[a,f]azulen-2-ol | 180 mg, 62% | N1(CCCCC1)CCOC1=CC=C(C=C1)C1OC2=C(CC=3SC4=C(C13)C=CC(=C4)O)C=CC=C2 | C29H29NO3S
